US07214682B2
7.1 3-Bromo-7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one hydrobromide (1:1)
To a solution of 3.0 g (11.7 mmol) of 7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one in 75 ml of acetic acid was added dropwise 0.6 ml (11.7 mmol) of bromine. The mixture was allowed to stir at room temperature for 2 h.

reactant | 7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | 11.7 mmol, 3.0 g | CC1(CNC=2N(C(C=C(N2)C2=CC=NC=C2)=O)C1)C | C14H16N4O
reactant | bromine | 11.7 mmol, 0.6 ml | BrBr | Br2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one hydrobromide | Br.BrC1=C(N=C2N(C1=O)CC(CN2)(C)C)C2=CC=NC=C2 | InChI=1S/C14H15BrN4O.BrH/c1-14(2)7-17-13-18-11(9-3-5-16-6-4-9)10(15)12(20)19(13)8-14;/h3-6H,7-8H2,1-2H3,(H,17,18);1H
